US08003692B2
3-(2-Methoxy-phenyl)-cyclohex-2-enone.
Synthesized from 3-bromocyclohex-2-enone and 2-methoxyphenylboronic acid according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography using gradient elution (0 to 80% ethyl acetate/hexanes) yielded the product (166 mg, 98%) as a pale yellow oil. 1H NMR (300 MHz, CDCl3): δ 7.32 (ddd, J=8.3, 7.4, 1.9 Hz, 1H), 7.18 (dd, J=7.7, 1.9 Hz, 1H), 6.96 (dd, J=7.4, 1.1 Hz, 1H), 6.91 (d, J=8.5 Hz, 1H), 6.18 (t, J=1.8 Hz, 1H), 3.83 (s, 3H), 2.73 (td, J=6.1, 1.4 Hz, 2H), 2.48 (t, J=6.3 Hz, 2H), 2.14-2.06 (m, 2H).

reactant | 3-bromocyclohex-2-enone | BrC1=CC(CCC1)=O | C6H7BrO
reactant | 2-methoxyphenylboronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | 3-(2-Methoxy-phenyl)-cyclohex-2-enone | 166 mg, 98% | COC1=C(C=CC=C1)C1=CC(CCC1)=O | C13H14O2
